US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{3-[(4-nitrophenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0468 g, 0.159 mmol) and 3-bromopropyl 4-nitrophenyl ether (0.0550 g, 0.211 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0590 g, 67.0%). EI-MS m/z 473(M+) Rt (2.06 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.159 mmol, 0.0468 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl 4-nitrophenyl ether | 0.211 mmol, 0.0550 g | [N+](=O)([O-])C1=CC=C(C=C1)OCCCBr | C9H10BrNO3
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(4-nitrophenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0590 g, 67.0% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=CC=C(C=C2)[N+](=O)[O-])(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H33N2O4.BrH/c32-29(24-8-3-1-4-9-24,25-10-5-2-6-11-25)28-16-20-31(21-17-28,22-18-28)19-7-23-35-27-14-12-26(13-15-27)30(33)34;/h1-6,8-15,32H,7,16-23H2;1H/q+1;/p-1
